US09359336B2
To the solution of 3-iodo-5-isocyanopyridin-2-amine (2.74 g, 11.2 mmol, 1 eq) in anhydrous dimethylformamide (25 mL) in a 100 mL round bottom flask was added ammonium chloride (1.02 g, 1.7 eq) and sodium azide (1.24 g, 1.7 eq). The resulting reaction mixture was heated to 100° C. under nitrogen for 20 hours. After the reaction mixture was cooled to room temperature, it was poured into ice-chunk filled water and the pH of the mixture was adjusted to ˜3.5 using aqueous hydrochloric acid (2 N). After the mixture was stirred at room temperature for about two hours, it was filtered through a Buchner funnel, rinsed with water, giving a brown solid. The solid was treated with MeOH—CHCl3 and concentrated down with silica gel. Upon gradient column chromatography (MeOH-EtOAc 1:20 to 1:5), 3-iodo-5-(2H-tetrazol-5-yl)pyridin-2-amine was obtained as off-white solid in the amount of 1.15 g.

reactant | 3-iodo-5-isocyanopyridin-2-amine | 11.2 mmol, 2.74 g, 1 eq | IC=1C(=NC=C(C1)[N+]#[C-])N | C6H4IN3
reactant | ammonium chloride | 1.02 g, 1.7 eq | [Cl-].[NH4+]
reactant | sodium azide | 1.24 g, 1.7 eq | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | water | O | H2O
product | 3-iodo-5-(2H-tetrazol-5-yl)pyridin-2-amine | IC=1C(=NC=C(C1)C=1N=NNN1)N | C6H5IN6
